US04076843
To a well stirred solution of 3.62 g of trans-3-amino-1,2,3,4-tetrahydro-2-naphthalenol, hydrochloride (1:1) in 30 ml of water at 0-5° C is added 2.1 ml of benzoyl chloride in 10 ml of benzene. To this stirred two-phase mixture is added, over 30 minutes at 0°-5° C, a solution of 1.45 g of sodium hydroxide in 30 ml of water--precipitation of a pink solid begins immediately. After stirring the mixture for an additional 2 hours at 0°-5° C, the solid is filtered, washed with ether, and dried in vacuo to give 4.2 g of crude trans-3-benzamido-1,2,3,4-tetrahydro-2-naphthalenol.

reactant | trans-3-amino-1,2,3,4-tetrahydro-2-naphthalenol, hydrochloride | 3.62 g | Cl.N[C@H]1[C@@H](CC2=CC=CC=C2C1)O
reactant | benzoyl chloride | 2.1 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 30 ml | O | H2O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | trans-3-benzamido-1,2,3,4-tetrahydro-2-naphthalenol | 4.2 g | C(C1=CC=CC=C1)(=O)N[C@H]1[C@@H](CC2=CC=CC=C2C1)O | C17H17NO2
